US08859591B2
To a solution of (+/−)-methyl 4-(1-hydroxybutyl)-3-methylbenzoate (0.8 g, 4 mmol) in dichloromethane (15 mL) was added manganese dioxide (3.13 g, 36.0 mmol). The reaction was stirred at 30° C. overnight. TLC showed starting material remained and the reaction was heated to reflux for 5 hours. The reaction was cooled to room temperature and filtered through Celite. The filtrate was concentrated and purified by flash column chromatography to give methyl 4-butyryl-3-methylbenzoate (290 mg) as an oil. 1H NMR (400 MHz, CDCl3, δ): 7.90 (d, J=7.6 Hz, 2H), 7.59 (d, J=7.6 Hz, 1H), 3.93 (s, 3H), 2.86 (t, J=7.6 Hz, 2H), 2.49 (s, 3H), 1.69-1.78 (m, 2H), 0.99 (t, J=7.6 Hz, 3H).

reactant | (+/−)-methyl 4-(1-hydroxybutyl)-3-methylbenzoate | 4 mmol, 0.8 g | OC(CCC)C1=C(C=C(C(=O)OC)C=C1)C | C13H18O3
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
catalyst | manganese dioxide | 36.0 mmol, 3.13 g | [O-2].[O-2].[Mn+4]
product | methyl 4-butyryl-3-methylbenzoate | 290 mg | C(CCC)(=O)C1=C(C=C(C(=O)OC)C=C1)C | C13H16O3
